US07435837B2
Treatment of (±)-N-methyl-1-[7-(2,4,6-trichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine (1.1 g, 3.57 mmol) with diisopropylethylamine (0.69 g, 5.35 mmol) and benzyl chloroformate (0.0.82 g, 4.28 mmol) generally according to the procedure described for Intermediate 12 provided 1.6 g (99%) of (±)-benzyl methyl{[7-(2,4,6-trichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate as a colorless oil.

reactant | (±)-N-methyl-1-[7-(2,4,6-trichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 3.57 mmol, 1.1 g | CNCC1OC2=C(C1)C=CC=C2C2=C(C=C(C=C2Cl)Cl)Cl | C16H14Cl3NO
reactant | diisopropylethylamine | 5.35 mmol, 0.69 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 4.28 mmol | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl methyl{[7-(2,4,6-trichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate | 1.6 g, 99% | CN(C(OCC1=CC=CC=C1)=O)CC1OC2=C(C1)C=CC=C2C2=C(C=C(C=C2Cl)Cl)Cl | C24H20Cl3NO3
